US08614206B2
Oxetan-3-ylmethanol (1.85 g, 21.0 mmol) was dissolved in methylene chloride and cooled to 0° C. Triethylamine (5.31 g, 52.2 mmol) was added followed by slow addition of methanesulfonyl chloride (2.89 g, 25.2 mmol). The mixture was allowed to warm to ambient temperature for 2 h and quenched with sat. sodium bicarbonate (14 mL). The aqueous solution was extracted with methylene chloride 3×. The combined organic layers were dried over sodium sulfate, filtered and concentrated to give crude oxetan-3-ylmethyl methanesulfonate (quant.).

reactant | Oxetan-3-ylmethanol | 21.0 mmol, 1.85 g | O1CC(C1)CO | C4H8O2
reactant | Triethylamine | 52.2 mmol, 5.31 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25.2 mmol, 2.89 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | oxetan-3-ylmethyl methanesulfonate | CS(=O)(=O)OCC1COC1 | C5H10O4S
